US05470851
4-[α-(2-Pyridyl)benzyl]-1-(2-cyanoethyl)piperazine
1.05 g of N,N-diisopropyl-N-ethylamine was added, with stirring, to a solution of 2.0 g of 4-[α-(2-pyridyl)benzyl]piperazine and 1.0 g of 3-bromopropionitrile in 20 ml of methylene chloride, whilst ice-cooling, and the mixture was stirred at room temperature for 16 hours. At the end of this time, the mixture was poured into ice-water and extracted with chloroform. The extracts were combined and dried over anhydrous sodium sulfate, after which the solvent as removed by evaporation under reduced pressure. The resulting residue was purified by column chromatography through silica gel, using a 20:1 by volume mixture of ethyl acetate and ethanol as the eluent, to give 2:1 g (yield 88%) of the title compound as crystals, melting at 114°-116° C.

reactant | N,N-diisopropyl-N-ethylamine | 1.05 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[α-(2-pyridyl)benzyl]piperazine | 2.0 g | N1=C(C=CC=C1)C(C1=CC=CC=C1)N1CCNCC1 | C16H19N3
reactant | 3-bromopropionitrile | 1.0 g | BrCCC#N | C3H4BrN
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-[α-(2-Pyridyl)benzyl]-1-(2-cyanoethyl)piperazine | 1 g, yield 88% | N1=C(C=CC=C1)C(C1=CC=CC=C1)N1CCN(CC1)CCC#N | C19H22N4
